US06949571B2
3-(2-Cyanophenyl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one
A suspension of 0.11 g of 3-(2-cyanophenyl)-5-(2-pyridyl)-2(1H)-pyridone, 0.12 g of phenyl boronic acid 0.1 g of copper acetate and 0.3 ml of triethylamine in 10 ml of methylene chloride was stirred at room temperature for overnight. To this were added 5 ml of concentrated aqueous ammonia, 10 ml of water and 40 ml of ethyl acetate and the organic layer was separated, washed with water and a saturated saline solution and dried over magnesium sulfate. The solvent was concentrated in vacuo and the residue was purified by a silica gel column chromatography (ethyl acetate:hexane=1:2) to give 0.06 g of the title product as pale yellow powder.

reactant | 3-(2-cyanophenyl)-5-(2-pyridyl)-2(1H)-pyridone | 0.11 g | C(#N)C1=C(C=CC=C1)C=1C(NC=C(C1)C1=NC=CC=C1)=O | C17H11N3O
reactant | phenyl boronic acid | 0.12 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | 5 ml | N | H3N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | copper acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | 3-(2-Cyanophenyl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 0.06 g | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C23H15N3O
